US07781478B2
2-(3-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (100 mg, 0.32 mmol), prepared as described in Example 1H, is dissolved in pyridine (670 μL). Ethyl isocyanate (62 μL, 0.75 mmol) is added. The reaction mixture is then heated at 100° C. for 2 h. The mixture is then diluted in EtOAc, and is washed with aqueous HCl, followed by brine. The organic layer is dried and concentrated. Purification by silica chromatography (4/1, CH2Cl2/EtOAc), followed by trituration with hexanes/acetone (1/1), yields 1-[3-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-3-ethyl urea (44 mg, 36%) as a white solid.

reactant | 2-(3-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.32 mmol, 100 mg | NC=1C=C(C=CC1)C#CC=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H17N3O
reactant | Ethyl isocyanate | 0.75 mmol, 62 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 670 μL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[3-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-3-ethyl urea | 44 mg, 36% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C#CC=1C=C(C=CC1)NC(=O)NCC | C23H22N4O2
